* C:\Users\Meinrad\Documents\Sources\github\BatLogger\circuit\LTSpice\UltrasonicAmp.asc
V1 5V 0 5
V§MIC N005 0 SINE(0 0.01 500) AC 1m
R1 N002 5V 100
R7 N005 N002 5k
R8 N007 N006 100k
R3 0 P001 470
R4 0 N009 1k
C4 5V 0 100µ
C5 5V 0 0.1µ
C1 N002 0 100µ V=6.3 Irms=175m Rser=0.65 Lser=0 mfg="Panasonic" pn="ECA0JFQ101" type="Al electrolytic"
C3 N005 N006 0.1µ
C2 N003 P001 0.33µ
R§POT N003 N001 25k
C7 N004 N001 4.7n
C9 N009 0 0.1µ
R5 N009 5V 1k
R9 N007 N008 1k
R11 N008 OUT 4.7meg
R6 N004 N007 5k
XU4 N008 N004 5V 0 OUT LM339
R12 5V OUT 1k
XU1 N006 N003 5V 0 N001 OPA134
XU2 N009 N007 5V 0 N007 OPA134
R§POT2 N001 N001 25k
.tran 5m
.inc OPA134.sub
.lib LM339.sub
.backanno
.end
