* C:\Users\Meinrad\Documents\Sources\github\BatLogger\circuit\LTSpice\UltrasonicPreamp4.asc
V§Mic N004 0 SINE(0 0.05m 200k) AC 1m
C1 N005 In 1n
V2 N001 0 5
R2 N001 N005 100k
R3 N005 0 18k
R5 N010 0 4k7
C2 N011 0 100n
Q1 N003 N005 N010 0 2N3904
R4 N001 N003 47k
R6 N011 N010 47
R8 N001 N007 100k
R9 N007 0 18k
R11 N012 0 4k7
C4 N013 0 100n
Q3 HIGHPASS N007 N012 0 2N3904
R10 N001 HIGHPASS 47k
R12 N013 N012 47
Q2 N001 N003 N006 0 2N3904
R7 N006 0 10k
C3 N007 N006 1n
R1 N001 In 10k
XU2 NC_01 N002 rect NC_02 NC_03 NC_04 NC_05 NC_06 out VDD 0 CD4024B VDD=5 SPEED=1.0 TRIPDT=5e-9
Q4 N001 LOWPASS N008 0 2N3904
R18 N008 0 10k
R16 N001 N009 100k
R17 N009 0 18k
R19 N014 0 4k7
C8 N015 0 100n
Q5 N002 N009 N014 0 2N3904
R20 N001 N002 47k
R21 N015 N014 47
C9 N009 N008 1n
R13 HIGHPASS LOWPASS 47
C5 LOWPASS 0 470p
R14 N004 In 47
C6 In 0 470p
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.inc cd4000.lib
.ac oct 10 1 1000k
* Sim only
.backanno
.end
